US09376422B2
Step 6: Synthesis of 5-chloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-[ethyl(oxan-4-yl)amino]-2-methoxybenzamide
To a solution of 5-chloro-3-[ethyl(oxan-4-yl)amino]-2-methoxybenzoic acid (111 mg, 0.35 mmol) in DMF (3 ml) at room temperature under nitrogen was added PyBOP (220 mg, 0.42 mmol) followed by N-ethyl-N-(propan-2-yl)propan-2-amine (92 μl, 0.53 mmol) and 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 66 mg, 0.39 mmol). After stirring for 1.5 hours at room temperature no starting material was observed by LCMS. Deionized water (20 ml) was added to the reaction mixture and the resultant precipitate was collected by filtration. The solid was washed with deionized water (3×5 ml) before being air dried. The solid was further purified by FCC (5 g silica, Isolute cartridge, gradient of eluents; 100% DCM to 97:3 DCM:MeOH). The sample was dried in a vacuum oven for 18 hours to give 105 mg (64%) the title compound as an off-white solid. LC-MS 98%, m/z=449.5/452.1, 1H NMR (500 MHz, Chloroform-d) δ ppm 11.47 (s, 1H), 8.79 (t, J=5.8 Hz, 1H), 7.73 (d, J=2.6 Hz, 1H), 7.05 (d, J=2.6 Hz, 1H), 5.92 (s, 1H), 4.55 (d, J=6.0 Hz, 2H), 3.98 (dd, J=11.3, 3.8 Hz, 2H), 3.78 (s, 3H), 3.35 (t, J=11.6 Hz, 3H), 3.12 (q, J=7.0 Hz, 2H), 2.42 (s, 3H), 2.28 (s, 3H), 1.92-1.61 (m, 4H), 0.94 (t, J=7.0 Hz, 3H).

reactant | 5-chloro-3-[ethyl(oxan-4-yl)amino]-2-methoxybenzoic acid | 0.35 mmol, 111 mg | ClC=1C=C(C(=C(C(=O)O)C1)OC)N(C1CCOCC1)CC | C15H20ClNO4
reactant | PyBOP | 0.42 mmol, 220 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N-ethyl-N-(propan-2-yl)propan-2-amine | 0.53 mmol, 92 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.39 mmol, 66 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 5-chloro-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-[ethyl(oxan-4-yl)amino]-2-methoxybenzamide | 105 mg, 64% | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)OC)N(C1CCOCC1)CC | C23H30ClN3O4
